US07262185B2
To 2-hydroxymethyl-1-pentylimidazole (3.8 g) was added thionyl chloride (38 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure and the obtained residue was recrystallized from methanol-ethyl acetate, to give 2-chloromethyl-1-pentylimidazole hydrochloride (3.00 g) as brown crystals.

reactant | 2-hydroxymethyl-1-pentylimidazole | 3.8 g | OCC=1N(C=CN1)CCCCC | C9H16N2O
reactant | thionyl chloride | 38 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-pentylimidazole hydrochloride | 3.00 g | Cl.ClCC=1N(C=CN1)CCCCC | InChI=1S/C9H15ClN2.ClH/c1-2-3-4-6-12-7-5-11-9(12)8-10;/h5,7H,2-4,6,8H2,1H3;1H
